US08022062B2
(±)-7-Chloro-6-[1-(2-cyanophenyl)-ethylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use a method similar to the Preparation 177, using 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine and (±)-2-(1-bromoethyl)benzonitrile to give, after deprotection by the General Procedure 1-4, the title compound as a white solid. MS (APCI+) m/z: 343 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | (±)-2-(1-bromoethyl)benzonitrile | BrC(C)C1=C(C#N)C=CC=C1 | C9H8BrN
product | (±)-7-Chloro-6-[1-(2-cyanophenyl)-ethylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SC(C)C1=C(C=CC=C1)C#N | InChI=1S/C19H19ClN2S.ClH/c1-13(16-5-3-2-4-15(16)12-21)23-19-17-9-11-22-10-8-14(17)6-7-18(19)20;/h2-7,13,22H,8-11H2,1H3;1H
